US07253286B2
N-[4-(6-Acetylaminomethyl-7-methoxyquinolin-4-yloxy)phenyl]-N′-phenylurea
After dissolving N-[4-(6-aminomethyl-7-methoxy-quinolin-4-yloxy)phenyl]-N′-phenylurea trifluoroacetate (40 mg) in pyridine (1.0 ml) and acetic anhydride (1.0 ml), the solution was stirred overnight at room temperature. The reaction solution was concentrated under reduced pressure and the obtained crude product was crystallized with ethyl acetate to obtain the title compound (13 mg).

reactant | N-[4-(6-aminomethyl-7-methoxy-quinolin-4-yloxy)phenyl]-N′-phenylurea trifluoroacetate | 40 mg | FC(C(=O)O)(F)F.NCC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[4-(6-Acetylaminomethyl-7-methoxyquinolin-4-yloxy)phenyl]-N′-phenylurea | 13 mg | C(C)(=O)NCC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C26H24N4O4
